US08071581B2
Step 2: (5-Fluoro-quinolin-6-yl)-acetic acid tert-butyl ester
To a solution of 6-bromo-5-fluoro-quinoline (1.0 g, 4.5 mmol) in tetrahydrofuran (1 mL) was added a solution of tert-butylzincbromide acetate (9 mmol, 20 mL, 10.4 M in tetrahydrofuran) followed by Pd(PPh3)4 (0.52 g, 0.45 mmol). The mixture was heated in a microwave reactor for 30 min at 120° C. The reaction mixture was quenched with a saturated ammonium chloride (60 mL), and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified by column chromatography to afford the title compound (0.83 g, 71%). 1H-NMR (CDCl3, 300 MHz): 8.9 (d, 1H), 8.4 (d, 1H), 7.8 (d, 1H), 7.6 (m, 1H), 7.5 (m, 1H), 3.7 (d, 2H), 1.4 (s, 9H).

reactant | 6-bromo-5-fluoro-quinoline | 4.5 mmol, 1.0 g | BrC=1C(=C2C=CC=NC2=CC1)F | C9H5BrFN
reactant | tert-butylzincbromide acetate | 9 mmol, 10.4 M, 20 mL | C(C)(=O)[O-].[Br-].C(C)(C)(C)[Zn+2]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.45 mmol, 0.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-Fluoro-quinolin-6-yl)-acetic acid tert-butyl ester | 0.83 g, 71% | C(C)(C)(C)OC(CC=1C(=C2C=CC=NC2=CC1)F)=O | C15H16FNO2
